** HSPICE file for leftbuf_ld
**   - generated by ext2sp v4.1

** Include netlist file for leftbuf_ld
.include leftbuf_ld.spice

** Default 3.3V Power Supply
Vsupply Vdd GND 3.3V

** Specify input signals here
** e.g. for inputs A and B
VClock  Clock  GND PWL(0NS 0V  2NS 0V  2.25NS 3.3V  6NS  3.3V  6.25NS  0V)
VTest   Test   GND PWL(0NS 0V  4NS 0V  4.25NS 3.3V  8NS  3.3V  8.25NS  0V)
VnReset nReset GND PWL(0NS 0V  6NS 0V  6.25NS 3.3V  10NS 3.3V  10.25NS 0V)
VnSDO   nSDO   GND PWL(0NS 0V  8NS 0V  8.25NS 3.3V  12NS 3.3V  12.25NS 0V)

** Default Simulation - Type, Resolution & Duration
.TRAN 10PS 15NS

** Specify ouput signals to measure here
** e.g. rise and fall delays for output Y
**   .measure tran fall_delay TRIG v(Y) VAL='3.3*0.9' TD=0NS FALL=1
**   + TARG v(Y) VAL='3.3*0.1' TD=0NS FALL=1
**   .measure tran rise_delay TRIG v(Y) VAL='3.3*0.1' TD=0NS RISE=1
**   + TARG v(Y) VAL='3.3*0.9' TD=0NS RISE=1

** Save results for display
.OPTIONS POST
** Avoid DC convergence in at unreasonable voltage
.OPTIONS GMINDC=1n

.END
